US08957203B2
To a dry 40 mL vial equipped with a stir bar was added 1-chloroisoquinolin-6-ol (200 mg, 1.11 mmol) and potassium carbonate (231 mg, 1.67 mmol). To the vial was added dry ethyl acetate (6 mL) followed by ethyl 2-bromoacetate (0.148 mL, 1.34 mmol). The vial was sealed and then heated at 60° C. for 2 h. The mixture was cooled to room temperature, diluted with acetone, and then filtered. The filtrated was concentrated and the resulting solid residue was subjected to SiO2 chromatography (hexanes:EtOAc 85:15 to 70:30) to afford ethyl 2-((1-chloroisoquinolin-6-yl)oxy)acetate as a colorless, crystalline solid (296 mg, 66%). 1H NMR (400 MHz, CHLOROFORM-d) δ 8.29 (d, J=9.3 Hz, 1H), 8.22 (d, J=5.8 Hz, 1H), 7.49 (d, J=5.8 Hz, 1H), 7.40 (dd, J=9.3, 2.8 Hz, 1H), 7.04 (d, J=2.5 Hz, 1H), 4.79 (s, 2H), 4.32 (q, J=7.3 Hz, 2H), 1.33 (t, J=7.2 Hz, 3H); MS: MS m/z 266.15 (M++1).

reactant | 1-chloroisoquinolin-6-ol | 1.11 mmol, 200 mg | ClC1=NC=CC2=CC(=CC=C12)O | C9H6ClNO
reactant | potassium carbonate | 1.67 mmol, 231 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl 2-bromoacetate | 1.34 mmol, 0.148 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 2-((1-chloroisoquinolin-6-yl)oxy)acetate | ClC1=NC=CC2=CC(=CC=C12)OCC(=O)OCC | C13H12ClNO3
